US08110687B2
To a mixture of 7-amino-5,6,7,8-tetrahydronaphthalen-2-ol hydrochloric acid salt with 80% purity (3.78 g, 0.0104 mol) in DMF (12 mL, 0.15 mol) was added TEA (7.26 mL, 0.0521 mol) followed by di-tert-butyldicarbonate (2.96 g, 0.0135 mol) and reaction mixture was stirred at rt overnight. LCMS showed the completion of reaction. Water was added and the mixture was extracted with EtOAc. The organic layer was separated and washed with water, brine and then dried over magnesium sulfate. After evaporation, the crude product was purified flash chromatography to give tert-butyl (7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)carbamate (2.11 g, 76%). 1H NMR (400 MHz, CDCl3) δ: 6.92 (d, 1H); 6.64 (dd, 1H); 6.54 (d, 1H); 4.65 (br, 1H); 3.92 (br, 1H); 3.00 (dd, 1H); 2.76 (t, 2H); 2.53 (dd, 1H); 2.00 (m, 1H); 1.70 (m, 1H); 1.46 (s, 9H). LCMS ES+ 264.3, ES− 262.4.

reactant | 7-amino-5,6,7,8-tetrahydronaphthalen-2-ol hydrochloric acid salt | Cl.NC1CCC=2C=CC(=CC2C1)O
reactant | DMF | 0.15 mol, 12 mL | CN(C)C=O | C3H7NO
reactant | di-tert-butyldicarbonate | 0.0135 mol, 2.96 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | Water | O | H2O
product | tert-butyl (7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)carbamate | 2.11 g, 76% | OC1=CC=C2CCC(CC2=C1)NC(OC(C)(C)C)=O | C15H21NO3
